US07250427B2
2-{4-[2-(1-Benzoyl-piperidin-2-yl)-ethoxy]-phenyl}-1H-benzoimidazole-5-carboxylic acid amide
A solution of benzoic acid (75 mg, 0.62 mmol) and EDC (59 mg, 0.31 mmol) in DMF (1 mL) was stirred for 2 h and then was treated with 2-[4-(2-piperidin-2-yl-ethoxy)-phenyl]-1H-benzoimidazole-5-carboxylic acid amide (75 mg, 0.21 mmol) and DMAP (65 mg, 0.53 mmol). The mixture was stirred for 18 h, and the crude material was purified by reverse phase HPLC (C18; H2O/CH3CN/0.01% TFA), providing 46 mg (66%) of the title compound. HPLC (Method C): Rt=5.15. MS (ESI+): mass calcd. for C28H28N4O3, 468.22; m/z found, 469.4 [M+H]+. 1H NMR (400 MHz, CD3OD): 8.19 (s, 1H), 8.00-7.96 (m, 3H), 7.72 (d, J=8.6 Hz, 1H), 7.36-7.25 (m, 2H), 7.25-7.10 (m, 4H), 6.95-6.90 (m, 1H), 4.20-4.07 (m, 2H), 3.92-3.90 (m, 1H), 3.48-3.43 (m, 1H), 2.45-2.35 (m, 1H), 2.12-1.81 (m, 1H), 1.81-1.30 (m, 7H).

reactant | benzoic acid | 0.62 mmol, 75 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | EDC | 0.31 mmol, 59 mg
reactant | 2-[4-(2-piperidin-2-yl-ethoxy)-phenyl]-1H-benzoimidazole-5-carboxylic acid amide | 0.21 mmol, 75 mg | N1C(CCCC1)CCOC1=CC=C(C=C1)C1=NC2=C(N1)C=CC(=C2)C(=O)N | C21H24N4O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.53 mmol, 65 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-{4-[2-(1-Benzoyl-piperidin-2-yl)-ethoxy]-phenyl}-1H-benzoimidazole-5-carboxylic acid amide | 46 mg, 66% | C(C1=CC=CC=C1)(=O)N1C(CCCC1)CCOC1=CC=C(C=C1)C1=NC2=C(N1)C=CC(=C2)C(=O)N | C28H28N4O3
